US06544982B1
Step 2: Naphthalene-1-ylmethyl-(3-phenyl-isoxazol-5-yl)-(3-piperidin-yl-propyl)-amine
To a solution of 3-phenyl-isoxazol-5-yl-(3-piperidin-1-yl-propyl)amine (142.5 mg, 0.0005 m) in DMF (6 ml) was added 25 mg 60% sodium hydride in oil. The reaction foamed and turned yellow. After stirring for 5 minutes, 110.5 mg 1-(bromomethyl)naphthalene in DMF (3 ml) was added. The reaction turned from yellow to brown in color. The DMF was removed under reduced pressure. The oil was flash chromatographed using a 50 mm×6″ silica gel column with methylene chloride 95-methanol 5-ammonium hydroxide 0.5 as the solvent system. The product fractions were collected and concentrated to an oil. Add hexane/ether and remove under reduced pressure (2×s). Ethanol was added followed by 1M HCl in ether (1 ml). Remove the solvent. Add hexane/ether (2×s) to yield “title” as a foam. Dry under high vac. HPLC 95.43% at 215. Mass Spectra cal'd. 425.57; found 426.4. H NMR (CDCl3) 11.95-11.75(br,s,1H), 8.1-7.3(m, 12H), 5.6-5.4(s,1H), 5.2-4.8(s,2H), 3.6-3.4(br,2H)3.35-3.15(br,2H), 2.7-2.5(br, 2H),2.3-2.0(br,6H.)

reactant | 3-phenyl-isoxazol-5-yl-(3-piperidin-1-yl-propyl)amine | 142.5 mg | C1(=CC=CC=C1)C1=NOC(=C1)NCCCN1CCCCC1 | C17H23N3O
reactant | sodium hydride | 25 mg | [H-].[Na+]
reactant | 1-(bromomethyl)naphthalene | 110.5 mg | BrCC1=CC=CC2=CC=CC=C12 | C11H9Br
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | Naphthalene-1-ylmethyl-(3-phenyl-isoxazol-5-yl)-(3-piperidin-yl-propyl)-amine | C1(=CC=CC2=CC=CC=C12)CN(CCCN1CCCCC1)C1=CC(=NO1)C1=CC=CC=C1 | C28H31N3O
